US07135469B2
Part A: 1-(4-Methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (1.0 g, 3.17 mmol) was dissolved in N,N-dimethylformamide (40 mL) and cooled to 0° C. Sodium hydride (60%, 0.317 g, 7.93 mmol) was added followed by 4-bromobutyl acetate (0.918 mL, 6.34 mmol). The reaction was stirred at rt overnight, quenched with 1N hydrochloric acid (200 mL), extracted with ethyl acetate (3×250 mL), washed with water (2×200 mL), washed with brine (1×200 mL), dried over MgSO4, concentrated, and purified by flash chromatography using 0–100% ethyl acetate/hexanes gradient as the eluent to afford 6-(4-acetoxy-butyl)-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (0.490 g, 36%). The ester (0.490 g, 0.114 mmol) was dissolved in 5% NH3/ethylene glycol (6 mL) in a pressure tube, heated at 80° C. for 2 hr, cooled, quenched with water (100 mL), extracted with ethyl acetate (3×100 mL), washed with brine (1×100 mL), dried over MgSO4, concentrated, and purified by flash chromatography using 0–100% ethyl acetate gradient and 0–100% methanol/ethyl acetate gradient as the eluents to afford 0.295 g (72%): 1H NMR (CHCl3) δ 7.45 (d, j=8.8 Hz, 2H), 6.97 (d, j=9.1 Hz, 2H), 6.83 (s, 3H), 5.49 (s, 3H), 3.84 (s, 3H), 3.66 (t, j=6.2 Hz, 2H), 3.51 (t, j=7.3 Hz, 2H), 3.23 (t, j=6.8 Hz, 2H), 1.72–1.55 (m, 4H) ppm; Mass Spec 357.3(M−H)−.

reactant | 1-(4-Methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 3.17 mmol, 1.0 g | C(C)OC(=O)C1=NN(C=2C(NCCC21)=O)C2=CC=C(C=C2)OC | C16H17N3O4
reactant | Sodium hydride | 7.93 mmol, 0.317 g | [H-].[Na+]
reactant | 4-bromobutyl acetate | 6.34 mmol, 0.918 mL | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 6-(4-acetoxy-butyl)-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 0.490 g, 36% | C(C)OC(=O)C1=NN(C=2C(N(CCC21)CCCCOC(C)=O)=O)C2=CC=C(C=C2)OC | C22H27N3O6
